US08754220B2
To a solution of lithium diisopropylamide (1.8 M in THF, 64.8 mL, 117 mmol) in 135 mL of THF at −78° C. was added a solution of 2,3-lutidine (10.0 g, 93.0 mol) in 62 mL of THF dropwise over 10 min. After an additional 40 min, a solution diethyl ethoxymethylenemalonate (21.7 mL, 107 mmol) in 30 mL of THF was added slowly over 15 min, and the reaction was slowly warmed to rt. After 2.5 h, the mixture was treated with saturated aqueous ammonium chloride and extracted 3× with dichlormethane. The combined organic fractions were dried over sodium sulfate, filtered, and concentrated in vacuo. The crude intermediate was dissolved in 100 mL of o-xylene and heated to reflux for 16 h. The reaction was concentrated in vacuo and the resultant residue was purified via silica gel chromatography, eluting with 0-5% methanol in dichloromethane to provide ethyl 9-methyl-4-oxo-4H-quinolizine-3-carboxylate that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 232.1 for [M+H]+.

reactant | lithium diisopropylamide | 117 mmol, 1.8 M, 64.8 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2,3-lutidine | 93.0 mol, 10.0 g | N1=C(C(=CC=C1)C)C | C7H9N
reactant | diethyl ethoxymethylenemalonate | 107 mmol, 21.7 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 135 mL | C1CCOC1 | C4H8O
solvent | THF | 62 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ethyl 9-methyl-4-oxo-4H-quinolizine-3-carboxylate | CC1=CC=CN2C(C(=CC=C12)C(=O)OCC)=O | C13H13NO3
